US07727988B2
2,4-Dimethoxy-5-pyrazin-2-yl-pyrimidine (Prep124)
2,4-Dimethoxy-pyrimidine-5-boronic acid (1.33 g, 7.27 mmol) was dissolved in degassed n-PrOH (20 ml) and then 2-iodo-pyrazine (1.0 g, 4.85 mmol), Na2CO3 (1.02 g, 9.70 mmol), PPh3 (127 mg, 0.48 mmol) and Pd(OAc)2 (54 mg) were added. The suspension was stirred at reflux for 4 hours. The solvent was evaporated under vacuum and the crude was partitioned between water and DCM. The organic phase was dried (Na2SO4) and evaporated. The crude was purified by flash chromatography eluting with DCM-MeOH—NH4OH (99-1-0.1) to give 481 mg of the title compound (45% yield).

reactant | 2,4-Dimethoxy-pyrimidine-5-boronic acid | 7.27 mmol, 1.33 g | COC1=NC=C(C(=N1)OC)B(O)O | C6H9BN2O4
reactant | 2-iodo-pyrazine | 4.85 mmol, 1.0 g | IC1=NC=CN=C1 | C4H3IN2
reactant | Na2CO3 | 9.70 mmol, 1.02 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | PPh3 | 0.48 mmol, 127 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | n-PrOH | 20 ml | C(CC)O | C3H8O
catalyst | Pd(OAc)2 | 54 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 2,4-Dimethoxy-5-pyrazin-2-yl-pyrimidine | 481 mg, 45% yield | COC1=NC=C(C(=N1)OC)C1=NC=CN=C1 | C10H10N4O2
